* diag2: .tran/.meas como LINHAS DE NETLIST (fora de .control) -> uic honrado?
V1 vin 0 19.8
Vg1 g1 0 PULSE(0 1 0 1p 1p 1.212u 2u)
Vg2 g2 0 PULSE(0 1 1.212u 1p 1p 788n 2u)
S1 vin sw g1 0 SWQ
S2 0 sw g2 0 SWQ
.model SWQ SW(Ron=1m Roff=1meg Vt=0.5 Vh=0)
L1 sw out 89u ic=0.6
C1 out 0 44u
Rl out 0 20
.ic v(out)=11.9982
.tran 20n 2000u 0 20n uic
.meas tran w1 AVG v(out) FROM=10u TO=20u
.meas tran w2 AVG v(out) FROM=110u TO=120u
.meas tran w6 AVG v(out) FROM=260u TO=270u
.meas tran w9 AVG v(out) FROM=1900u TO=2000u
.meas tran v10 FIND v(out) AT=10u
.meas tran v290 FIND v(out) AT=290u
.end
